US06191150B1
A solution of methyl (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoate (6.5 g, 31.9 mmol) in 100 mL of water—MeOH—THF (1:1:4) is treated with lithium hydroxide monohydrate (1.6 g, 38 mmol) and stirred overnight. The reaction mixture is acidified to pH 2 using 1 M aqueous sodium hydrogen sulfate and extracted with two 100-mL portions of EtOAc. The combined organic layers are washed with two 25-mL portions of saturated aqueous sodium chloride, dried over sodium sulfate and filtered, and the solvents are removed under reduced pressure. Purification by flash chromatography on silica gel eluting with 10% EtOAc-hexanes affords 6.0 g (100%) of (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid as a gum.

reactant | methyl (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoate | 31.9 mmol, 6.5 g | CC(C[C@@H](C(=O)OC)[C@@H](CCC)O)C | C11H22O3
reactant | lithium hydroxide monohydrate | 38 mmol, 1.6 g | O.[OH-].[Li+]
reactant | sodium hydrogen sulfate | 1 M | S(=O)(=O)(O)[O-].[Na+]
solvent | water MeOH THF | 100 mL | O.CO.C1CCOC1
product | (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid | 6.0 g, 100% | CC(C[C@@H](C(=O)O)[C@@H](CCC)O)C | C10H20O3
